US08039472B2
To a solution of Methyl 3-(4-hydroxyphenyl)propanoate (0.5 g, 2.77 mmol) in dry DMF (10 ml) is added potassium carbonate (0.76 g, 5.55 mmol) followed by 4-(bromomethyl)pyridine hydrobromide (0.7 g, 2.77 mmol). The reaction mixture is stirred at room temperature overnight then poured into water (80 ml) and extracted with EtOAc (40 ml). The organic phase is washed with brine, dried (MgSO4) and the solvent removed in vacuo to yield a dark brown oil. Chromatography (SiO2, EtOAc) yields 3-[4-(Pyridin-4-ylmethoxy)-phenyl]-propionic acid methyl ester as a colourless oil; [M+H]+ 272.0

reactant | Methyl 3-(4-hydroxyphenyl)propanoate | 2.77 mmol, 0.5 g | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
reactant | potassium carbonate | 5.55 mmol, 0.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(bromomethyl)pyridine hydrobromide | 2.77 mmol, 0.7 g | Br.BrCC1=CC=NC=C1
reactant | water | 80 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-[4-(Pyridin-4-ylmethoxy)-phenyl]-propionic acid methyl ester | COC(CCC1=CC=C(C=C1)OCC1=CC=NC=C1)=O | C16H17NO3
